US07482350B2
Step 1. Preparation of 2-(2,6-Diethyl-phenyl)-6-methyl-5-{[methyl-(1S)-(1,2,3,4-tetrahydro-naphthalen-1-yl)amino]-methyl}-pyrimidin-4-ol
To a flask containing (1S)-N-{[2-(2,6-diethylphenyl)-4-methoxy-6-methylpyrimidin-5-yl]methyl}-N-methyl-1,2,3,4-tetrahydronaphthalen-1-amine (3.5 g, 8.15 mmol) is added EtOH (50 mL) and HCl (12 N, 50 mL) and the solution is heated at 90° C. for 16 h. The solution is cooled to 0° C. and basified using 5N NaOH slowly, followed by addition of EtOAc (100 mL). The organic layer is washed with sat. NaHCO3 (100 mL), brine (100 mL) and dried over Na2SO4. Concentration and vacuum drying affords the title compound as a white gummy foam. [mass expected (415.57); mass found (415.33)]

reactant | (1S)-N-{[2-(2,6-diethylphenyl)-4-methoxy-6-methylpyrimidin-5-yl]methyl}-N-methyl-1,2,3,4-tetrahydronaphthalen-1-amine | 8.15 mmol, 3.5 g | C(C)C1=C(C(=CC=C1)CC)C1=NC(=C(C(=N1)OC)CN([C@H]1CCCC2=CC=CC=C12)C)C | C28H35N3O
reactant | EtOH | 50 mL | CCO | C2H6O
reactant | HCl | 12 N, 50 mL | Cl | ClH
reactant | NaOH | 5N | [OH-].[Na+]
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 2-(2,6-Diethyl-phenyl)-6-methyl-5-{[methyl-(1S)-(1,2,3,4-tetrahydro-naphthalen-1-yl)amino]-methyl}-pyrimidin-4-ol | C(C)C1=C(C(=CC=C1)CC)C1=NC(=C(C(=N1)O)CN([C@H]1CCCC2=CC=CC=C12)C)C | C27H33N3O
